US08334287B2
4-[4-(2-chloro-pyridin-4-ylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one
A solution of 47 mg (0.067 mmol) bis(triphenyl-phosphine)palladium dichloride in 4 ml of DMF was degassed with argon. Then 300 mg (0.952 mmol) of 4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-1H-pyridin-2-one, 5 mg (0.019 mmol) of triphenylphosphine, and 0.265 ml (193 mg, 1.90 mmol) of triethylamine were added and the mixture was stirred for 10 min at room temperature. Then 399 mg (1.904 mmol) of 2-chloro-4-trimethylsilanyl-ethynyl-pyridine CAS: [499193-57-6] and 5.4 mg (0.029 mmol) of copper(I) iodide were added and the yellow solution was stirred for another 10 min. The mixture was warmed to 60° C. and 1.43 ml of 1M tetrabutylammonium fluoride solution (1.43 mmol) were added dropwise over a period of 50 min. The dark brown mixture was stirred for 48 h at 50° C., allowed to cool, and was evaporated to dryness in vaccuo. The residue was taken up in 5 ml of ethyl acetate, 3 g of silicagel were added and the suspension was evaporated to dryness. The silicagel containing adsorbed product was loaded onto a 50 g flash chromatography column. The product was eluted with a gradient heptane:ethyl acetate 80:20 to ethyl acetate: methanol 90:10. The pure fractions were concentrated to yield 94 mg (0.289 mmol, 30%) of the title compound as a brown solid, MS: m/e=325.2, 327.1 (M+H+).

reactant | 4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-1H-pyridin-2-one | 0.952 mmol, 300 mg | IC=1N=C(N(C1C)C1=CC(NC=C1)=O)C | C10H10IN3O
reactant | triethylamine | 1.90 mmol, 0.265 ml, 193 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-4-trimethylsilanyl-ethynyl-pyridine | 1.904 mmol, 399 mg | ClC#CC1=NC=CC(=C1)[Si](C)(C)C | C10H12ClNSi
reactant | tetrabutylammonium fluoride | 1.43 mmol, 1M, 1.43 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenyl-phosphine)palladium dichloride | 0.067 mmol, 47 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.029 mmol, 5.4 mg | [Cu]I
catalyst | triphenylphosphine | 0.019 mmol, 5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-[4-(2-chloro-pyridin-4-ylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one | 0.289 mmol, 94 mg, 30% | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1C)C1=CC(NC=C1)=O)C | C17H13ClN4O
